US07935674B2
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 1-(3) and 4-ethoxybenzoyl chloride were treated in a manner similar to Example 2-(4) to give 4-chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indol-3-yl 4-ethoxyphenyl ketone as a colorless powder. APCI-Mass m/Z 630/632 (M+H). 1H-NMR (DMSO-d6) δ 1.37 (t, J=7.0 Hz, 3H), 1.69 (s, 3H), 1.98 (s, 6H), 2.04 (s, 3H), 4.11-4.12 (m, 2H), 4.14 (q, J=7.3 Hz, 2H), 4.28-4.32 (m, 1H), 5.29 (t, J=9.7 HZ, 1H), 5.54 (t, J=9.5 Hz, 1H), 5.71 (t, J=9.2 Hz, 1H), 6.32 (d, J=9.0 Hz, 1H), 7.04 (d, J=8.8 Hz, 2H), 7.25 (d, J=7.5 Hz, 1H), 7.35 (t, J=8.0 Hz, 1H), 7.79 (d, 1H), 7.99 (d, J=8.8 Hz, 2H), 8.07 (s, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 4-ethoxybenzoyl chloride | C(C)OC1=CC=C(C(=O)Cl)C=C1 | C9H9ClO2
product | 4-chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indol-3-yl 4-ethoxyphenyl ketone | C(C)OC1=CC=C(C=C1)C(=O)C1=CN(C2=CC=CC(=C12)Cl)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C31H32ClNO11
